2180-04-19 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pacemaker in am
   - EEG pnd
   - decreased u/o at 2300, dry on exam, gave 500cc bolus
   - BP 150s, increased captopril to 25tid
   - TTE: The left atrium is normal in size. The estimated right atrial
   pressure is 0-5 mmHg. There is moderate symmetric left ventricular
   hypertrophy. The left ventricular cavity size is normal. Overall left
   ventricular systolic function is mildly depressed (LVEF= 45 %) with
   mild global hypokinesis and probable basal inferior hypokinesis (views
   are suboptimal). The aortic valve leaflets are mildly thickened (?#)
   with no aortic stenosis. Mild (1+) aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. Mild (1+) mitral
   regurgitation is seen. There is a trivial/physiologic pericardial
   effusion.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-4-18**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-4-19**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 70 (70 - 72) bpm
   BP: 155/64(84) {121/51(75) - 179/77(101)} mmHg
   RR: 20 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
             Total In:
                                                                    232 mL
                                                                    565 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                    182 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    370 mL
   Urine:
                                                                  1,235 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,003 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Gen: WDWN old female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. Dry mm
   Neck: Supple
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: No pitting edema but legs look swollen.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   .
   Pulses:
   Right: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   232 K/uL
   12.1 g/dL
   93 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.3 mEq/L
   19 mg/dL
   108 mEq/L
   141 mEq/L
   37.2 %
   8.4 K/uL
        [image002.jpg]
                             [**2180-4-17**]  03:33 PM
                             [**2180-4-17**]  03:40 PM
                             [**2180-4-17**]  04:06 PM
                             [**2180-4-18**]  05:38 AM
                             [**2180-4-19**]  05:13 AM
   WBC
   7.4
   7.6
   8.4
   Hct
   35.9
   38.0
   37.2
   Plt
   227
   255
   232
   Cr
   1.1
   0.9
   1.1
   TCO2
   30
   30
   Glucose
   98
   104
   93
   Other labs: PT / PTT / INR:12.7/30.4/1.1, ALT / AST:18/30, Alk Phos / T
   Bili:80/0.8, Lactic Acid:1.1 mmol/L, Albumin:3.9 g/dL, LDH:282 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Patient is a 74 F w/ history of a seizure disorder presents with CHB
   and seizure
   .
   #. Complete heart block:
   --PPM today
   --keep atropine at bedside
   --TTE without evidence of endocarditis and mild likely ischemic
   cardiomyopathy but otherwise no structural heart disease
   --Avoid nodal agents
   .
   # Seizure: Likely has h/o of this in past per daughter-in-law. Unclear
   if had synocope or seizures in the past. No further episodes here and
   currently alert. Will review tele strips to ensure no asystole during
   seizure activiy.
   - Appreciate Neuro recs
   - Continue keppra
   - EEG pending
   - Ativan for seizure activity
   ..
   #. HTN: Will avoid giving BB or CCB.
   --Captopril uptitrated yesterday with BPs better this am. Will continue
   to uptitrate as needed.
   # UTI: Patient with urinary frequency. No fevers. Dirty UA in ED.
   - Continue bactrim (cipro lowers seizure threshold may have
   precipitated seizure yesterday)
   - Urine cultures with GNRs. Will follow up sensitivities.
   .
   # CAD: Has decreased EF and regional wall motion abnormality on TTE
   suggestive of CAD.
   - Will risk stratify with persantine mibi prior to dc and check
   cholesterol for possible statin treatment as well
   - Will start beta blocker after PPM placed
   .
   # Cough: Non-productive. Will place ppd today as recently immigrated.
   .
   #. FEN: Replete lytes prn
   .
   #. PPx:  Sc heparin, bowel regimen prn
   .
   #. Emergency contact: [**Name (NI) **]
   ICU [**Name (NI) 232**]
   Nutrition: HH diet
   Glycemic Control:  none needed
   Lines:
   18 Gauge - [**2180-4-17**] 01:45 PM
   Cordis/Introducer - [**2180-4-17**] 06:00 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: po diet
   Communication:  Comments: through translator with patient, son, and
   daughter in law
   Code status: Full code
   Disposition: possibly to floor after ppm placement
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   agree with above
   Physical Examination
   agree with above
   Medical Decision Making
   agree with above
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3213**] [**Name (NI) 862**]  on:[**2180-4-19**]
   17:25 ------